US05990139
Synthesis of 1-(4-ethylphenyl)-2-imidazolidinone (Compound No. 1)
To a solution of 3.98 g of 2-chloroethylamine in 30 ml of diethyl ether, a solution of 3.68 g of 4-ethylphenyl isocyanate in 15 ml of tetrahydrofuran was added dropwise under ice cooling. After the resultant mixture was stirred at room temperature for 30 minutes, diethyl ether was added, followed by the collection of precipitated crystals by filtration. The crystals so obtained were added under ice cooling to a suspension of 10.8 g of 60%-sodium hydride in 35 ml of tetrahydrofuran, followed by stirring at room temperature for 15 hours. The reaction mixture was concentrated under reduced pressure, to which 1N hydrochloric acid was added. Resulting crystals were collected by filtration and washed with n-hexane, whereby 3.64 g of the title compound were obtained (yield: 89%).

reactant | 2-chloroethylamine | 3.98 g | ClCCN | C2H6ClN
reactant | 4-ethylphenyl isocyanate | 3.68 g | C(C)C1=CC=C(C=C1)N=C=O | C9H9NO
reactant | sodium hydride | [H-].[Na+]
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | 1-(4-ethylphenyl)-2-imidazolidinone | 3.64 g, yield: 89% | C(C)C1=CC=C(C=C1)N1C(NCC1)=O | C11H14N2O
